US06900309B1
9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-N-[2-(4-isopropyl-1-piperidinyl)ethyl]-9H-purine-2-carboxamide
A mixture of methyl 9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)-tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate (Preparation 18) (92 mg, 0.18 mmol) and 2-(4-isopropyl-1-piperidinyl)ethylamine (Preparation 20) (100 mg, 0.6 mmol) was heated at 120° C. under a nitrogen atmosphere for 75 minutes. The reaction mixture was allowed to cool to room temperature and diethyl ether (2 ml) added to precipitate a crude product. The solvent was decanted off the gum which was then triturated with ethyl acetate (2 ml). The resulting white solid was filtered off and dried to give the title compound (59 mg).

reactant | methyl 9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)-tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate | 0.18 mmol, 92 mg | O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C26H27N5O6
reactant | 2-(4-isopropyl-1-piperidinyl)ethylamine | 0.6 mmol, 100 mg | C(C)(C)C1CCN(CC1)CCN | C10H22N2
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
product | 9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-N-[2-(4-isopropyl-1-piperidinyl)ethyl]-9H-purine-2-carboxamide | 59 mg | O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)NCCN1CCC(CC1)C(C)C | C35H45N7O5
